US05378718
2-(2-Hydroxyethoxy)benzaldehyde
A mixture of 0.2 mol of 2-hydroxybenzaldehyde, 0.2 mol of ethylene carbonate and 0.3 mol of tetraethylammonium bromide was heated at 140° C. for 2 hours. After cooling, the reaction mixture was taken up in ethyl acetate, washed with water, dried over MgSO4 and evaporated. The compound was purified by distillation.

reactant | 2-hydroxybenzaldehyde | 0.2 mol | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | ethylene carbonate | 0.2 mol | C1(OCCO1)=O | C3H4O3
catalyst | tetraethylammonium bromide | 0.3 mol | [Br-].C(C)[N+](CC)(CC)CC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Hydroxyethoxy)benzaldehyde | OCCOC1=C(C=O)C=CC=C1 | C9H10O3
